US07612070B2
1-(4-fluorobenzyl)-5-methanesulfonyl-2-(5-methyl-[1,2,4]oxadiazol-3-yl)indole;
Among the above compounds, 1-(4-fluorobenzyl)-5-methanesulfonyl-2-(thiazol-2-yl)indole; 1-(4-fluorobenzyl)-2-(oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo [2,3-b]pyridine; and 1-(4-fluorobenzyl)-5-methanesulfonyl-2-([1,3,4]oxadiazol-2-yl)indole and addition salts thereof with a pharmaceutically acceptable acid or base, and hydrates thereof are particularly preferred.

reactant | 1-(4-fluorobenzyl)-5-methanesulfonyl-2-(thiazol-2-yl)indole | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C=2SC=CN2)C=C1 | C19H15FN2O2S2
reactant | 1-(4-fluorobenzyl)-2-(oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo [2,3-b]pyridine | FC1=CC=C(CN2C(=CC=3C2=NC=C(C3)S(=O)(=O)C)C=3OC=CN3)C=C1 | C18H14FN3O3S
reactant | 1-(4-fluorobenzyl)-5-methanesulfonyl-2-([1,3,4]oxadiazol-2-yl)indole | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C=2OC=NN2)C=C1 | C18H14FN3O3S
product | 1-(4-fluorobenzyl)-5-methanesulfonyl-2-(5-methyl-[1,2,4]oxadiazol-3-yl)indole | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C2=NOC(=N2)C)C=C1 | C19H16FN3O3S
